US04654353
4-{[4-(2,3-Dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}-1-hydroxybutane
A solution of methyl 4-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}butanoate (0.50 g) in tetrahydrofuran (10 ml) was added dropwise over 10 minutes to a stirred, ice-cooled suspension of lithium aluminium hydride (76 mg) in tetrahydrofuran (25 ml). The mixture was stirred at 0° for 70 minutes, quenched by pouring into excess iced-water and partitioned between ethyl acetate and water. The layers were separated and the organic layer was washed twice with water, dried (MgSO4) and evaporated. The residue was purified by chromatography on silica (7 g) using dichloromethane plus 0→20% v/v ethyl acetate as the eluant. Appropriate fractions were combined and evaporated and the residue was recrystallised from diisopropyl ether to give the title compound, (0.28 g), m.p. 103°-104°.

reactant | methyl 4-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}butanoate | 0.50 g | ClC1=C(C=CC=C1Cl)C1C(=C(NC(=C1C(=O)OC)C)COCCCC(=O)OC)C(=O)OCC | C23H27Cl2NO7
reactant | lithium aluminium hydride | 76 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 4-{[4-(2,3-Dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}-1-hydroxybutane | 0.28 g | ClC1=C(C=CC=C1Cl)C1C(=C(NC(=C1C(=O)OC)C)COCCCCO)C(=O)OCC | C22H27Cl2NO6
